US05292906
Preparation of 3-[[(1,1-Dimethylethyl)dimethylsilyl]oxy]-5α-estran-17β-ol acetate
To a solution of 17β-acetyloxy-5α-estran-3-one (1.595 g, 5 mmol) in dry dichloromethane (30 mL) was added with stirring at ice-water bath temperature, triethyl amine (2 mL) followed by t-butyldimethylsilyl triflate (2.64 g, 10 mmol). The solution was stirred for 25 min, then diluted with dichloromethane (20 mL) and washed with satd.aq. NaHCO3 (30 mL), brine (30 mL) and dried over Na2SO4. The solvent was removed to yield a solid, which was purified by chromatography (silica gel, dichloromethane, pretreated with 1% triethyl amine in hexanes) to get 1.9 g (87%) of pure product as colorless crystals, m.p. 89°-90° C.

reactant | 17β-acetyloxy-5α-estran-3-one | 5 mmol, 1.595 g | C(C)(=O)O[C@@H]1[C@]2(C)[C@@H](CC1)[C@@H]1CC[C@H]3CC(CC[C@@H]3[C@H]1CC2)=O | C20H30O3
reactant | triethyl amine | 2 mL | C(C)N(CC)CC | C6H15N
reactant | t-butyldimethylsilyl triflate | 10 mmol, 2.64 g | O(S(=O)(=O)C(F)(F)F)[Si](C)(C)C(C)(C)C | C7H15F3O3SSi
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | 3-[[(1,1-Dimethylethyl)dimethylsilyl]oxy]-5α-estran-17β-ol acetate | 1.9 g, 87% | C(C)(=O)O[C@@H]1[C@]2(C)[C@@H](CC1)[C@@H]1CC[C@H]3CC(CC[C@@H]3[C@H]1CC2)O[Si](C)(C)C(C)(C)C | C26H46O3Si
